* tb_v25b_baseline.spice — Exact v25b baseline test
* Purpose: verify v25b works in this environment

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/parameters/invariant.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/ubuntu/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"

* v25b block files
.include /tmp/ea_v25b.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include /tmp/comp_v25b.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include /tmp/su_v25b.cir

* Exact v25b wiring
XM_pass gate bvdd pvdd pass_device
XEA avbg vfb ea_out pvdd 0 ibias ea_en error_amp
XFB pvdd vfb 0 feedback_network
XCOMP ea_out pvdd 0 compensation
XILIM gate bvdd pvdd 0 ilim_flag current_limiter
XUV pvdd avbg uv_flag svdd 0 uvov_en uv_comparator
XOV pvdd avbg ov_flag svdd 0 uvov_en ov_comparator
XZC pvdd 0 zener_clamp
XMC bvdd pvdd svdd 0 avbg en_ret bypass_en mc_ea_en ref_sel uvov_en ilim_en pass_off mode_control
XSU bvdd pvdd gate 0 avbg startup_done ea_en ea_out startup
XLS_EN en en_bvdd bvdd svdd 0 level_shifter_up
Cint pvdd 0 200e-12

* Stimuli
Vbvdd bvdd 0 PWL(0 0 10u 7 200m 7)
Vavbg avbg 0 1.226
Ibias ibias 0 DC 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0
Iload pvdd 0 PWL(0 0 40m 0 40.01m 1m 50m 1m 50.01m 10m 60m 10m 60.01m 50m 70m 50m)
Cout pvdd 0 1u

.option reltol=1e-4 abstol=1e-12 vntol=1e-6
.option method=gear maxord=2
.option itl1=500 itl2=500 itl4=500

.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 72m uic

.meas tran v_0ma avg V(pvdd) from=35m to=40m
.meas tran v_1ma avg V(pvdd) from=45m to=50m
.meas tran v_10ma avg V(pvdd) from=55m to=60m
.meas tran v_50ma avg V(pvdd) from=65m to=70m
.meas tran pvdd_peak MAX V(pvdd) from=0 to=40m

.control
run
quit
.endc
.end
